* AD8002AR SPICE Macro Model      
* Description: Amplifier
* Generic Desc: Dual 600MHz 50mW current feedback amp
* Developed by: RFD/ADS
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (11/1995)
* Copyright 1995, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
* This version of the AD8002 model simulates the worst case 
* parameters of the 'A' grade in the 'R ' package (SOIC).  The Worst case
* parameters used correspond to those in the data sheet. 
* This model was developed using the +/-5V specifications.
*
* END Notes
*
* Node assignments
*                Non-inverting input
*                | Inverting input
*                | | Positive supply
*                | | | Negative supply
*                | | | | Output
*                | | | | |
.SUBCKT AD8002AR 3 2 7 4 6
*
****** INPUT STAGE ********
*
Q1 7 9 10 QN
Q2 4 9 11 QP
Q3 14 11 15 QN
Q4 16 10 15 QP
I1 10 4 DC 2.568e-4 
I2 7 11 DC 2.568e-4 
D1 17 14 DX 
D2 16 18 DX 
V2 18 4 DC -4.41135e-2 
V1 7 17 DC -4.41135e-2 
R1 14 7 1E3 
R2 4 16 1E3 
CS1 7 2 .25e-12 
CS2 2 4 .25e-12 
CIN 3 4 1.5E-12 
LIN- 15 2 .9e-9 
GB1 7 3 POLY(1) 3 100 (6e-6,0.9e-6)
GB2 7 2 POLY(1) 3 100 (25e-6,1e-6)
EOS 3 9 POLY(1) 100 23 (6E-3,1)
*
****** gainst *******
*
V3 7 20 DC 2.8108 
V4 21 4 DC 2.8108 
R3 100 19 3.1e5 
C1 19 100 6.4987781e-13 
D3 19 20 DX 
D4 21 19 DX 
G1 100 19 POLY(1) 7 14 (0,1E-3)
G2 19 100 POLY(1) 16 4 (0,1E-3)
EREF 100 0 POLY(2) (7,0) (4,0) (0,0.5,0.5)
*
****** CMRR *********
*
CCM 22 23 4.56424e-13 
RCM2 100 23 1 
RCM1 23 22 1e4 
ECM 22 100 100 3 31.668
*
******* POLE1 ***********
*
C3 100 24 2.273644e-16 
R5 24 100 1e6 
G4 100 24 19 100 1E-6
*
******** POLE2 ***********
*
C4 25 100 3.978877e-17 
R6 25 100 1e6 
G5 100 25 24 100 1E-6
*
****** OUTPUT ********
*
RO1 33 7 21.4 
RO2 4 33 21.4 
VW 25 30 DC 0 
VSC1 31 33 DC .325 
VSC2 33 32 DC .325 
LO 33 6 2e-9 
DSC2 32 30 DX 
DSC1 30 31 DX 
GO1 33 7 POLY(1) 7 30 (0.0, 4.6728972e-2)
GO2 4 33 POLY(1) 30 4 (0.0, 4.6728972e-2)
*
VSY1 36 100 DC 0 
VSY2 100 37 DC 0 
DSY1 35 36 DX 
DSY2 37 35 DX 
FSY 7 4 POLY(2) VSY1 VSY2 (4.7326E-3,1,1)
GSY 100 35 33 30 4.6728972E-2
*
.MODEL QN NPN(BF=100 IS=1E-15)
.MODEL QP PNP(BF=100 IS=1E-15)
.MODEL DX D(IS=1E-15)
.ENDS AD8002AR





