* AD630 SPICE Macro-model
* Description: Amplifier                                     
* Generic Desc: Bipolar,  Balanced Modulator/Demod
* Developed by: ARG / PMI
* Revision History: 08/10/2012 - Updated to new header style
* 2.0
*    Changed R1 and R2 to 20k ohms to meet comparator input voltage spec.
*    Changed E1 gain to 100k to better meet minimum comparator diff. input
*    spec.
*    Changed DZ breakdown from 30V to 50V.
*    Changed Ios1,Ios2 to 25E-9 and changed polarity.
* Copyright 1993, 2012 by Analog Devices.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*             chan A non-inverting input
*             |  chan A inverting input
*             |  |  RIN A
*             |  |  |  chan B non-inverting input
*             |  |  |  |  chan B inverting input
*             |  |  |  |  |  RIN B
*             |  |  |  |  |  |  sel A
*             |  |  |  |  |  |  |  sel B
*             |  |  |  |  |  |  |  |  RB
*             |  |  |  |  |  |  |  |  |  RF
*             |  |  |  |  |  |  |  |  |  |  RA
*             |  |  |  |  |  |  |  |  |  |  |  comp
*             |  |  |  |  |  |  |  |  |  |  |  |  status
*             |  |  |  |  |  |  |  |  |  |  |  |  |  pos supply
*             |  |  |  |  |  |  |  |  |  |  |  |  |  |  neg supply
*             |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  output
*             |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT AD630 11 10 19 21 20 24 25 29 47 49 48 52 51 99 50 46
*
* COMPARATOR
*
V1   99   97   1
I1   97   1    100.2E-6
D1   1    97   DX
Q1   3    2    1    QP
Q2   5    4    1    QP
R1   3    50   20E3
R2   5    50   20E3
R4   25   2    1E3
R5   29   4    1E3
*
* COMPARATOR GAIN AND CLAMP
*
EREF 98   0    100 0 1
E1   6    98   5 3 100E3
R3   6    7    1E6
D2   7    8    DX
D3   9    7    DX
V6   8    98   .2429
V7   98   9    .2429
Q7   51   53   50   QN
G11  99   53   7 100 100E-6
D14  53   99   DY
*
* CHANNEL A AMPLIFIER AND POLE AT 1.7MHZ
*
R6   10   13   5E11
R7   11   13   5E11
IOS1 11   10   -5E-9
CIN1 10   11   1E-12
Q3   14   10   16   QN
Q4   15   12   17   QN
R8   99   14   12.736E3
R9   99   15   12.736E3
C1   14   15   3.675E-12
R10  16   18   12.220E3
R11  17   18   12.220E3
G2   18   50   7 100 100.2E-6
D4   50   18   DZ
R17  19   11   2.5E3
EOS1 12   11   POLY(1) 35 100 50E-6 1
*
* CHANNEL B AMPLIFIER
*
R12  20   23   5E11
R13  23   21   5E11
IOS2 21   20   -5E-9
CIN2 20   21   1E-12
Q5   14   20   26   QN
Q6   15   22   27   QN
R14  26   28   12.220E3
R15  27   28   12.220E3
G3   28   50   100 7 100.2E-6
D5   50   28   DZ
R18  24   21   2.5E3
EOS2 22   21   POLY(1) 37 100 50E-6 1
*
* GAIN STAGE, SLEW RATE, AND DOMINANT POLE AT 5.623HZ
*
G1   98   30   15 14 78.518E-6
RPI  30   98   12.736E3
C2   30   33   2.222E-12
GM1  33   98   30 0 1
RL   33   98   1E6
CC   30   52   2.75E-12
D6   33   31   DX
D7   32   33   DX
V2   99   31   1.42
V3   32   50   1.53
*
* AMP A COMMON MODE STAGE AND ZERO AT 100HZ
*
R20  34   35   1E6
R21  35   98   1
C3   34   35   1.592E-9
ECMA 34   98   13 100 3.162
*
* AMP B COMMON MODE STAGE AND ZERO AT 100HZ
*
R22  36   37   1E6
R23  37   98   1
C4   36   37   1.592E-9
ECMB 36   98   23 100 3.162
*
* POLE AT 20MHZ
*
G5   98   39   33 100 1E-6
R25  39   98   1E6
C6   39   98   7.958E-15
*
* POLE AT 20MHZ
*
G6   98   40   39 100 1E-6
R26  40   98   1E6
C7   40   98   7.958E-15
*
* OUTPUT STAGE
*
ISY  99   50   3.6E-3
R27  99   100  32.86E3
R28  100  50   32.86E3
R29  99   45   200
R30  45   50   200
L1   45   46   1E-10
G9   45   99   99 40 5E-3
G10  50   45   40 50 5E-3
G7   43   50   40 45 5E-3
G8   44   50   45 40 5E-3
V4   41   45   1.9
V5   45   42   1.9
D8   40   41   DX
D9   42   40   DX
D10  99   43   DX
D11  99   44   DX
D12  50   43   DY
D13  50   44   DY
R31  46   49   10E3
R32  49   47   10E3
R33  49   48   5E3
.MODEL QP PNP(BF=500)
.MODEL QN NPN(BF=500)
.MODEL DX D
.MODEL DY D(BV=50)
.MODEL DZ D(BV=50)
.ENDS AD630


