* source LM6172
R_R4         VOUT VREF  1000 TC=0,0 
V_V3         VEE 0 -15Vdc
R_R1         N02940 VOUT  2000 TC=0,0 
V_V1         VCC 0 15Vdc
V_V4         VIN VREF  AC 1
+SIN 0 1 50e6 0 0 0
V_V2         VREF 0 0Vdc
R_R2         VREF N02940  2000 TC=0,0 
X_U1         VIN N02940 VCC VEE VOUT LM6172/NS
